US06964966B2
A mixture of 5% Pd on carbon (0.5 g) and 4-amino-1-benzyl-3,5-diethylpiperidine (3.4 g, 13.82 mmol) in methanol (25 ml) was stirred in hydrogen atmosphere (3 atm.) at 60° C. for 6 hr. The catalyst was filtered off, washed with methanol and filtrate was concentrated to dryness to afford 4-amino-3,5-diethylpiperidine as an oil. Yield 1.4 g (64.5%), C9H20N2, m/z 157 (M+1).

reactant | 4-amino-1-benzyl-3,5-diethylpiperidine | 13.82 mmol, 3.4 g | NC1C(CN(CC1CC)CC1=CC=CC=C1)CC | C16H26N2
solvent | methanol | 25 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd on carbon | 0.5 g | [Pd] | Pd
product | 4-amino-3,5-diethylpiperidine | NC1C(CNCC1CC)CC | C9H20N2
